US04282242
5-Butylthiopyrrole-3-carboxylate is dissolved in ethyl acetate. An equivalent of ethanolic potassium hydroxide is added. Potassium 5-butylthiopyrrole-3-carboxylate is isolated by concentration to dryness or by precipitation resulting from addition of a non-solvent (ether or heptane).

reactant | 5-Butylthiopyrrole-3-carboxylate | C(CCC)C1=CC(=CN1)C(=S)[O-]
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Potassium 5-butylthiopyrrole-3-carboxylate | C(CCC)C1=CC(=CN1)C(=S)[O-].[K+] | InChI=1S/C9H13NOS.K/c1-2-3-4-8-5-7(6-10-8)9(11)12;/h5-6,10H,2-4H2,1H3,(H,11,12);/q;+1/p-1
